* Z:\mnt\design.r\spice\examples\1671.asc
V1 +V 0 5
XU1 +V N001 N003 0 0 0 N002 OUT LT1671
C§Y1 N002 N001 .5p Rser=500 Lser=50m Cpar=5p
C2 N003 0 .068µ
R1 N002 N003 2K
R2 +V N001 2K
R3 N001 0 2K
.tran .5m startup
* 1MHz Crystal Oscillator
.lib LTC.lib
.backanno
.end
